US06964979B2
5-Cyano-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid
To a solution of 5-cyano-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid ethyl ester (0.959 g, 2.82 mmol) in THF/MeOH (7 mL/15 mL) was added 1 N NaOH (5.64 mL, 5.64 mmol). The reaction mixture was stirred at ambient temperature overnight. Most of THF/MeOH was removed under reduced pressure and the resulting mixture was acidified with 1 N HCl. The mixture was extracted with EtOAc (3×30 mL). The combined organic phase was washed with brine (60 mL), dried over Na2SO4 and concentrated to provide 0.868 g (99%) of title compound as a white solid. 1H NMR (acetone-d6): 300 MHz δ 10.37 (bs, 1H), 7.35 (d, J=7.50 Hz, 1H), 7.03 (d, J=7.50 Hz, 1H), 4.05 (m, 2H), 3.08-2.91 (m, 4H), 2.54 (s, 3H), 2.09 (m, 2H), 1.45 (m, 1H), 1.03 (m, 1H), 0.84 (t, J=7.26 Hz, 3H).

reactant | 5-cyano-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid ethyl ester | 2.82 mmol, 0.959 g | C(C)OC(CC1(OCCC2=C1NC1=C(C=CC(=C21)C#N)C)CCC)=O | C20H24N2O3
reactant | NaOH | 5.64 mmol, 1 N, 5.64 mL | [OH-].[Na+]
solvent | THF MeOH | 7 mL | C1CCOC1.CO
product | 5-Cyano-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid | 0.868 g, 99% | C(#N)C1=C2C3=C(NC2=C(C=C1)C)C(OCC3)(CC(=O)O)CCC | C18H20N2O3
